US04963568
Step 1: N-t-Butyloxycarbonyl-1-aminomethyl-3,4-dihydro-5,6-dihydroxy-3-phenyl-naphthalene
Triethylamine (7 mL) was added to a solution of 15 g (56 mmol) of 1-aminomethyl-3,4-dihydro-5,6-dihydroxy-3-phenyl-naphthalene hydrochloride, from Step 4 of Example 2, in 100 mL of dimethylformamide (DMF). The solution was cooled to 0° C. and a solution of di-t-butyl-dicarbonate (18 g, 82.5 mmol) in 50 mL of DMF was added over a period of 1 h. After the addition was complete, 250 mL of water was added to the reaction mixture and it was extracted with ethyl acetate. The combined organic layers from the extraction were washed with 1 N hydrochloric acid solution and brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The brown residue was triturated with boiling hexanes to give 16.7 g (99% yield) of the title compound as an off white solid, m.p. 175°-177° C. 1H NMR (CDC13) delta 1.45 (s, 9H), 2.74 (dd, 1H), 3.19 (dd, 1H), 3.6-3.7 (m, 1H), 4.1-4.25 (m, 2H), 4.71 (br s, 1H), 5.4 (br s, 1H), 5.88 (d, 1H), 6.0 (br s, 1H), 6.68 (s, 2H), 7.2-7.35 (m, 5H).

reactant | Triethylamine | 7 mL | C(C)N(CC)CC | C6H15N
reactant | 1-aminomethyl-3,4-dihydro-5,6-dihydroxy-3-phenyl-naphthalene hydrochloride | 56 mmol, 15 g | Cl.NCC1=CC(CC2=C(C(=CC=C12)O)O)C1=CC=CC=C1
reactant | di-t-butyl-dicarbonate | 82.5 mmol, 18 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 250 mL | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | DMF | 50 mL | CN(C=O)C | C3H7NO
product | N-t-Butyloxycarbonyl-1-aminomethyl-3,4-dihydro-5,6-dihydroxy-3-phenyl-naphthalene | 16.7 g, 99% yield | C(C)(C)(C)OC(=O)NCC1=CC(CC2=C(C(=CC=C12)O)O)C1=CC=CC=C1 | C22H25NO4
